US06593335B1
8-(3-bromo-4-fluorophenyl)-2,3,4,5,6,8-hexahydrodithieno [3.2-b:2′,3′-e]pyridine, 1,1,7,7-tetraoxide
3-Bromo-4-fluorobenzaldehyde (305 mg, 1.5 mmol), tetrahydrothiophene-3-oxo-1,1-dioxide (402 mg, 3.00 mmol), and 2.0 M NH3 in ethanol (1,1 mL, 2.2 mmol) in ethanol (3 mL) were heated to 80° C. for 3 days in a sealed tube, cooled, the solid precipitate collected, and washed with ethanol. The solid was heated to reflux overnight in ethanol with 1.0 M HCl in ether (1 mL), cooled, the solid collected, washed with ethanol and dried to provide 185 mg of the title compound as an off-white solid.

reactant | 3-Bromo-4-fluorobenzaldehyde | 1.5 mmol, 305 mg | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | tetrahydrothiophene-3-oxo-1,1-dioxide | 3.00 mmol, 402 mg | C1CS(=O)(=O)CC1=O | C4H6O3S
reactant | NH3 | 2.0 M | N | H3N
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethanol | 2.2 mmol, 1,1 mL | C(C)O | C2H6O
product | 8-(3-bromo-4-fluorophenyl)-2,3,4,5,6,8-hexahydrodithieno [3.2-b:2′,3′-e]pyridine | 185 mg | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1SCC3)CCS2 | C15H13BrFNS2
